.SUBCKT gf180mcu_fd_sc_mcu9t5v0__dlyc_4 I Z VDD VDD VSS VSS
*.PININFO I:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=I
M_i_2_0 Z_neg I VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2 net_7 Z_neg net_1 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3 net_1 Z_neg VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_26 net_9 net_7 net_13 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_30 net_13 net_7 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_0_0 net_8 net_9 net_11 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_4 net_11 net_9 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_21 net_3 net_8 net_6 VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_3_6 net_6 net_8 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2_0_18 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0_18_2 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0_18_1 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0_18_2_36 Z net_3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 Z_neg I VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0 net_0 Z_neg VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1 net_7 Z_neg net_0 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_35 net_12 net_7 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_47 net_9 net_7 net_12 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_9 net_10 net_9 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_22 net_8 net_9 net_10 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_0_29 net_5 net_8 VDD VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_1_39 net_3 net_8 net_5 VDD pmos_6p0 W=0.360000U L=0.500000U
M_i_3_0_0 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0_0_16 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0_0_32 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_0_0_16_16 Z net_3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
